US06987114B1
1-(2,5-Difluorobenzyl)-5-ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione
5-Ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione and 2,5-difluorobenzyl bromide were reacted by the same way with the example 1 to obtain the titled compound (170 mg, yield: 42.2%).

reactant | 5-Ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | C(C)C=1C(NC(NC1SC1=CC(=CC(=C1)C)C)=O)=O | C14H16N2O2S
reactant | 2,5-difluorobenzyl bromide | FC1=C(CBr)C=C(C=C1)F | C7H5BrF2
product | 1-(2,5-Difluorobenzyl)-5-ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | 170 mg, yield: 42.2% | FC1=C(CN2C(NC(C(=C2SC2=CC(=CC(=C2)C)C)CC)=O)=O)C=C(C=C1)F | C21H20F2N2O2S
